US07459451B2
To a mixture of ethyl 3-[1-ethyl-6-formyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (30 mg), morpholine (36 μl) and AcOH (0.1 ml) in EtOH (1 ml) was added sodium cyanoborohydride (15 mg) at room temperature and stirred at room temperature for 5 hours. The reaction mixture was acidified to pH 3 with HCl and stirred for 30 minutes. The solution was neutralized with aqueous NaOH and extracted with EtOAc (×3). The organic layer was combined, washed with brine and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel(CHCl3-MeOH 97:3) to give ethyl 3-[1-ethyl-4-(5-methyl-3-pyridyl)-6-(4-morpholinylmethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (35 mg) as an oil.

reactant | ethyl 3-[1-ethyl-6-formyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 30 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)C=O | C20H22N4O3
reactant | morpholine | 36 μl | N1CCOCC1 | C4H9NO
reactant | sodium cyanoborohydride | 15 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 1 ml | CCO | C2H6O
solvent | AcOH | 0.1 ml | CC(=O)O | C2H4O2
product | ethyl 3-[1-ethyl-4-(5-methyl-3-pyridyl)-6-(4-morpholinylmethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 35 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)CN2CCOCC2 | C24H31N5O3
